US05710152
Preparation of 4-[2-(4-oxo-3,4-dihydro-2H-1,3-benzoxazin-3-yl)-ethoxy]benzaldehyde (compound (4A))
0.58 g (3.0 mM) of 2-(4-oxo-3,4-dihydro-2H-1,3-benzoxazin-3-yl)-ethanol was dissolved in 5.0 ml of dimethyl sulfoxide. After the addition of 0.18 g (4.5 mM) of sodium hydride (oil) under ice cooling, the mixture was stirred for one hour while heating at 40° C. Then, 0.56 g (4.5 mM) of p-fluorobenzaldehyde in 5.0 ml of benzene was gradually added dropwise under ice cooling. After the addition, the mixture was allowed to stand room temperature while stirring for one hour. After the reaction, the reaction mixture was poured into ice water and extracted twice with ethyl acetate. The oil phase was combined and washed once with water, dried over magnesium sulfate, and concentrated under vacuum. The residue was purified with a silica gel column (eluent, hexane:ethyl acetate=5:1) to obtain 0.56 g (yield 62%) of colorless crystals of the title compound.

reactant | 2-(4-oxo-3,4-dihydro-2H-1,3-benzoxazin-3-yl)-ethanol | 3.0 mM, 0.58 g | O=C1N(COC2=C1C=CC=C2)CCO | C10H11NO3
reactant | sodium hydride | 4.5 mM, 0.18 g | [H-].[Na+]
reactant | p-fluorobenzaldehyde | 4.5 mM, 0.56 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | dimethyl sulfoxide | 5.0 ml | CS(=O)C | C2H6OS
solvent | benzene | 5.0 ml | C1=CC=CC=C1 | C6H6
product | 4-[2-(4-oxo-3,4-dihydro-2H-1,3-benzoxazin-3-yl)-ethoxy]benzaldehyde | O=C1N(COC2=C1C=CC=C2)CCOC2=CC=C(C=O)C=C2 | C17H15NO4
